data/polar.json
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[O-:3][n+:10]1[o:25][n:17][c:11]2[c:13]3[n+:8]([O-:18])[o:4][n:20][c:16]3[c:19]([N+:7]([O-:23])=[O:27])[cH:12][c:32]12.[cH:1]1[c:29]([CH:14]=[C:21]2[S:6][c:26]3[cH:22][cH:9][cH:15][cH:5][c:24]3[N:34]2[CH3:28])[cH:2][cH:31][cH:33][cH:30]1>>[cH:1]1[c:29]([CH:14]([CH:12]2[C:19](=[N+:7]([O-:23])[O-:27])[c:16]3[c:13]([n+:8]([O-:18])[o:4][n:20]3)-[c:11]3[n:17][o:25][n+:10]([O-:3])[c:32]32)[c:21]2[s:6][c:26]3[cH:22][cH:9][cH:15][cH:5][c:24]3[n+:34]2[CH3:28])[cH:2][cH:31][cH:33][cH:30]1", "epd": [["LP-/Pi+", [34], [21, 34]], ["Pi-/Sigma+", [14, 21], [14, 12]], ["Pi-/Pi+", [12, 19], [19, 7]], ["Pi-/LP+", [7, 27], [27]]]}
{"reaction_name": "Benzylic oxidation", "rsmi": "[O:12]=[Mn:13]=[O:14].[c:1]1([C:2]([H:9])([H:10])[O:7][H:11])[cH:3][cH:5][cH:8][cH:6][cH:4]1>>[O:12]([H:9])[H:11].[c:1]1([C:2]([H:10])=[O:7])[cH:3][cH:5][cH:8][cH:6][cH:4]1.[Mn:13]=[O:14]", "epd": [["Sigma-/Pi+", [2, 9], [2, 7]], ["Sigma-/Sigma+", [7, 11], [11, 12]], ["Sigma-/Sigma+", [12, 13], [9, 12]], ["Pi-/LP+", [12, 13], [13]]]}
{"reaction_name": "O-Acylation of alcohols", "rsmi": "[C:1]([Cl:5])(=[O:6])[CH3:7].[O:2]([CH2:4][CH3:3])[H:8]>>[C:1]([O:2][CH2:4][CH3:3])(=[O:6])[CH3:7].[Cl:5][H:8]", "epd": [["LP-/Sigma+", [2], [1, 2]], ["Pi-/LP+", [1, 6], [6]], ["LP-/Pi+", [6], [1, 6]], ["Sigma-/LP+", [1, 5], [5]], ["LP-/Sigma+", [5], [5, 8]], ["Sigma-/LP+", [2, 8], [2]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[N+:2](=[N-:8])=[N-:9].[cH:1]1[cH:3][cH:10][c:7]([N+:5](=[CH2:6])[CH3:12])[cH:11][cH:4]1>>[cH:1]1[cH:3][cH:10][c:7]([N:5]([CH2:6][N-:8][N+:2]#[N:9])[CH3:12])[cH:11][cH:4]1", "epd": [["LP-/Pi+", [9], [2, 9]], ["Pi-/Sigma+", [8, 2], [8, 6]], ["Pi-/LP+", [6, 5], [5]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[CH:3]([C:13]([c:20]1[cH:11][cH:23][c:7]([O:25][CH3:10])[cH:24][cH:12]1)=[O:21])=[S:29]([CH3:14])[CH3:15].[c:1]12[c:5]([cH:18][cH:16][cH:27][cH:8]1)-[c:6]1[c:2]([cH:9][cH:28][cH:17][cH:19]1)[N+:26]2=[CH:4][CH3:22]>>[c:1]12[c:5]([c:6]3[c:2]([cH:9][cH:28][cH:17][cH:19]3)[n:26]1[CH:4]([CH:3]([C:13]([c:20]1[cH:11][cH:23][c:7]([O:25][CH3:10])[cH:24][cH:12]1)=[O:21])[S+:29]([CH3:14])[CH3:15])[CH3:22])[cH:18][cH:16][cH:27][cH:8]2", "epd": [["Pi-/Sigma+", [3, 29], [3, 4]], ["Pi-/LP+", [4, 26], [26]]]}
{"reaction_name": "Electrophilic fluorination", "rsmi": "[CH2:3]=[CH2:4].[F:1][F:2]>>[F:1][CH2:3][CH2:4][F:2]", "epd": [["Sigma-/Sigma+", [1, 2], [1, 3]], ["Pi-/Sigma+", [3, 4], [2, 4]]]}
{"reaction_name": "Ugi reaction", "rsmi": "[CH3:2][N+:5]#[C-:6].[CH3:7][C:8]([H:10])=[O:13].[H:1][O:4][C:12]([CH3:3])=[O:11].[N:9]([CH3:14])([H:15])[H:16]>>[CH3:2][N:5]([C:6]([C:8]([CH3:7])([N:9]([C:12]([CH3:3])=[O:11])[CH3:14])[H:10])=[O:13])[H:15].[H:1][O:4][H:16]", "epd": [["LP-/Sigma+", [6], [6, 8]], ["Pi-/LP+", [8, 13], [13]], ["LP-/Sigma+", [13], [6, 13]], ["Pi-/LP+", [5, 6], [5]], ["LP-/Sigma+", [5], [5, 15]], ["Sigma-/LP+", [9, 15], [9]], ["LP-/Sigma+", [9], [8, 9]], ["LP-/Pi+", [13], [6, 13]], ["Pi-/LP+", [5, 6], [5]], ["Sigma-/LP+", [4, 12], [4]], ["LP-/Sigma+", [4], [4, 16]], ["Sigma-/LP+", [9, 16], [9]], ["LP-/Sigma+", [9], [9, 12]], ["Sigma-/LP+", [8, 13], [13]]]}
{"reaction_name": "Isocyanide carbene-like α-elimination", "rsmi": "[N+:1]([C:2]([Cl:3])([Cl:4])[H:7])#[C-:5].[OH-:6]>>[Cl-:4].[N+:1]([C:2][Cl:3])#[C-:5].[OH:6][H:7]", "epd": [["Sigma-/LP+", [2, 4], [4]], ["Sigma-/LP+", [2, 7], [2]], ["LP-/Sigma+", [6], [6, 7]]]}
{"reaction_name": "Selectfluor fluorination", "rsmi": "[CH2:1]([N+:7]12[CH2:15][CH2:24][N+:14]([F:4])([CH2:25][CH2:16]1)[CH2:26][CH2:17]2)[Cl:27].[cH:2]1[cH:5][c:33]([B-:34]2([c:12]3[s:21][c:11]([CH3:23])[cH:13][cH:28]3)[O:9][c:35]3[cH:30][cH:32][cH:31][cH:29][c:36]3[O:10]2)[cH:6][cH:3][c:8]1[C:22]([F:18])([F:19])[F:20]>>[CH2:1]([N+:7]12[CH2:15][CH2:24][N:14]([CH2:25][CH2:16]1)[CH2:26][CH2:17]2)[Cl:27].[F:4][c:12]1[s:21][c:11]([CH3:23])[cH:13][cH:28]1.[cH:2]1[cH:5][c:33](-[b-:34]2[o+:9][c:35]3[cH:30][cH:32][cH:31][cH:29][c:36]3[o:10]2)[cH:6][cH:3][c:8]1[C:22]([F:18])([F:19])[F:20]", "epd": [["LP-/Pi+", [9], [34, 9]], ["Sigma-/Sigma+", [12, 34], [12, 4]], ["Sigma-/LP+", [4, 14], [14]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[cH:1]1[cH:2][cH:15][cH:7][c:9]2[c:5]1[N+:19]([CH3:12])=[CH:14][C:13]2=[CH:10][c:18]1[cH:16][cH:20][cH:23][cH:21][cH:17]1.[cH:3]1[n:4][c:11]([O-:8])[cH:24][cH:6][cH:22]1>>[cH:1]1[cH:2][cH:15][cH:7][c:9]2[c:5]1[n:19]([CH3:12])[cH:14][c:13]2[CH:10]([n:4]1[cH:3][cH:22][cH:6][cH:24][c:11]1=[O:8])[c:18]1[cH:16][cH:20][cH:23][cH:21][cH:17]1", "epd": [["Pi-/Sigma+", [3, 4], [4, 10]], ["LP-/Pi+", [8], [8, 11]], ["Pi-/Pi+", [10, 13], [13, 14]], ["Pi-/LP+", [14, 19], [19]], ["Pi-/Pi+", [6, 22], [3, 22]], ["Pi-/Pi+", [11, 24], [6, 24]]]}
